US07227035B2
Synthesis of 3-[4-(2-Benzoyl-4-chloro-phenylsulfamoyl)-phenyl]-propionic Acid Methyl Ester
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 116 mg of (2-Amino-5-chloro-phenyl)-phenyl-methanone and 131 mg of 3-(4-chlorosulfonyl-phenyl)-propionic acid methyl ester. 1H-NMR (400 MHz, CDCl3): δ 2.50 (t, 2H, J=8.0 Hz), 2.83 (t, 2H, J=8.0 Hz), 3.64 (s, 3H), 7.08 (d, 2H, J=8.8 Hz), 7.33 (d, 1H, J=2.8 Hz), 7.36–7.42 (m, 4H), 7.47 (dd, 1H, J=8.8 Hz, 2.8 Hz), 7.58 (m, 3H), 7.75 (d, 1H, J=8.8 Hz), 9.78 (s, 1H). MS: m/z 458.9 (M++1).

reactant | (2-Amino-5-chloro-phenyl)-phenyl-methanone | 116 mg | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=CC=C1 | C13H10ClNO
reactant | 3-(4-chlorosulfonyl-phenyl)-propionic acid methyl ester | 131 mg | COC(CCC1=CC=C(C=C1)S(=O)(=O)Cl)=O | C10H11ClO4S
product | 3-[4-(2-Benzoyl-4-chloro-phenylsulfamoyl)-phenyl]-propionic Acid Methyl Ester | COC(CCC1=CC=C(C=C1)S(NC1=C(C=C(C=C1)Cl)C(C1=CC=CC=C1)=O)(=O)=O)=O | C23H20ClNO5S
